US07304161B2
9.63 g of 3-(tert-Butyl-dimethyl-silanyloxymethyl)-5-methyl-2,3-dihydro-benzo[1,4]dioxine-6-carboxylic acid benzyl ester was dissolved in ca. 125 mL of dry CH2Cl2. The solution was transferred to a Parr hydrogenation bottle, and 5 g of 5% Pd on carbon were added. The bottle was charged with hydrogen and shaken on a Parr hydrogenation apparatus for 3 hours; hydrogen uptake ceased after 2 hours, as indicated by pressure monitoring. 100 mL CHCl3 were added, and the Pd/C was filtered off after adding MgSO4 as an aid to increase particle size. The CH2Cl2–CHCl3 phase was washed with 200 mL of 0.1N HCl to remove the by-product benzyl alcohol. The organic layer was dried and evaporated to give 6.47 g 3-(tert-butyl-dimethyl-silanyloxymethyl)-5-methyl-2,3-dihydro-benzo[1,4]dioxine-6-carboxylic acid, after trace solvent removal in a vacuum oven. TLC Rf=0.55 (1:1 ethyl acetate:hexane). Note: (a) Pd catalyzed hydrogenation is a far superior method to triethylsilane/palladium diacetate for this benzyl ester cleavage, (b) washing product with weak aqueous acid is a good way to remove benzyl alcohol. 1H NMR (300 MHz, CDCl3) δ (ppm): 7.55 (d, 1H), 6.7 (d, 1H), 4.3 (d, 1H), 4.17 (m, 1H), 4.02 (dd, 1H), 3.82 (dd, 1H), 3.75 (dd, 1H), (2.45 (s, 3H), 0.8 (s, 9H), 0.01 (s, 3H).

reactant | 3-(tert-Butyl-dimethyl-silanyloxymethyl)-5-methyl-2,3-dihydro-benzo[1,4]dioxine-6-carboxylic acid benzyl ester | 9.63 g | C(C1=CC=CC=C1)OC(=O)C1=C(C2=C(OCC(O2)C(O[SiH2]C(C)(C)C)(C)C)C=C1)C | C24H32O5Si
reactant | hydrogen | [H][H] | H2
reactant | CHCl3 | 100 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CH2Cl2 | ca. 125 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd on carbon | 5 g | [Pd] | Pd
product | 3-(tert-butyl-dimethyl-silanyloxymethyl)-5-methyl-2,3-dihydro-benzo[1,4]dioxine-6-carboxylic acid | 6.47 g | C(C)(C)(C)[SiH2]OC(C1OC2=C(OC1)C=CC(=C2C)C(=O)O)(C)C | C17H26O5Si
